US09102637B2
(b) 5-amino-2-(quinolin-6-ylamino)thiazole-4-carboxamide
A mixture of 6-isothiocyanatoquinoline (0.50 g, 2.7 mmol) and 2-amino-cyanoacetamide (0.26g, 2.68 mmol) in EtOAc (20 mL) was refluxed for 90 min. The reaction mixture was concentrated in vacuo, and the residue was purified by silica gel column chromatography eluted with 2% MeOH in DCM to give 0.50 g (65% yield) of the titled compound.

reactant | 6-isothiocyanatoquinoline | 2.7 mmol, 0.50 g | N(=C=S)C=1C=C2C=CC=NC2=CC1 | C10H6N2S
reactant | 2-amino-cyanoacetamide | 2.68 mmol, 0.26g | NC(C(=O)N)C#N | C3H5N3O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 5-amino-2-(quinolin-6-ylamino)thiazole-4-carboxamide | 0.50 g, 65% yield | NC1=C(N=C(S1)NC=1C=C2C=CC=NC2=CC1)C(=O)N | C13H11N5OS
